US04094840
(B) 17-(Ethylthio)-9-fluoro-11β-hydroxyandrosta-1,4,16-trien-3-one
A suspension of 1.8 g of 17,17-bis(ethylthio)-9-fluoro-11β-hydroxyandrosta-1,4-dien-3-one in 120 ml of diethylbenzene is stirred at 190° C (oil bath temperature) for 1 hour. The solution is cooled to 0° C and the solid that precipitates is filtered. This is redissolved in 1:9 hexane-chloroform and chromatographed on a 60 g-silica gel column. Elution with 1:9 hexane-chloroform gives 1.35 g of a tlc-homogeneous material. Crystallization from chloroform-methanol gives 680 mg of the title compound, melting point 282°-283° C (dec.), with consistent spectral data.

reactant | 17,17-bis(ethylthio)-9-fluoro-11β-hydroxyandrosta-1,4-dien-3-one | 1.8 g | C(C)SC1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O)SCC | C23H33FO2S2
solvent | diethylbenzene | 120 ml | C(C)C1=C(C=CC=C1)CC | C10H14
product | 17-(Ethylthio)-9-fluoro-11β-hydroxyandrosta-1,4,16-trien-3-one | 1.35 g | C(C)SC=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C21H27FO2S
